US04243678
Analogously to Example 47b), 10.0 g of ethyl 4-(biphenyl-2-yl)aminobutyrate and 4.6 g of ethyldiisopropylamine in 50 ml of benzene are reacted with 5.6 g of p-fluorobenzoyl chloride. The reaction product is recrystallized from cyclohexane to obtain 12.1 g (84.6% of theory) of ethyl 4-[p-fluoro-N-(biphenyl-2-yl)-benzamido]butyrate, MP 83° to 84°.

reactant | ethyl 4-(biphenyl-2-yl)aminobutyrate | 10.0 g | C1(=C(C=CC=C1)NCCCC(=O)OCC)C1=CC=CC=C1 | C18H21NO2
reactant | ethyldiisopropylamine | 4.6 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | p-fluorobenzoyl chloride | 5.6 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | ethyl 4-[p-fluoro-N-(biphenyl-2-yl)-benzamido]butyrate | 12.1 g, 84.6% | FC1=CC=C(C(=O)N(C2=C(C=CC=C2)C2=CC=CC=C2)CCCC(=O)OCC)C=C1 | C25H24FNO3
